US04623662
A solution of 2.56 g of phenyl chloroformate in 20 ml of toluene was added to a cold solution of 2.47 g of 4-chloro-2,6-dimethylaniline and 2.4 ml of N,N-dimethylaniline in 80 ml of toluene. The resulting mixture was stirred at room temperature for 11/2 hours and then diluted with water. The organic layer was washed with 3N hydrochloric acid, brine, dried, and evaporated. The residual solid was crystallized from ethylacetate:hexane to yield phenyl-N-(4-chloro-2,6-dimethylphenyl)carbamate, mp 158°-160° C.

reactant | phenyl chloroformate | 2.56 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-chloro-2,6-dimethylaniline | 2.47 g | ClC1=CC(=C(N)C(=C1)C)C | C8H10ClN
reactant | N,N-dimethylaniline | 2.4 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | phenyl-N-(4-chloro-2,6-dimethylphenyl)carbamate | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1C)Cl)C)=O | C15H14ClNO2
